US08039460B2
Step F: 6-Methyl-4-piperidin-4-ylpyridazin-3(2H)-one
Palladium (10% on carbon; 0.70 g) was added to a solution of benzyl 4-(6-methyl-3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxylate (1.45 g, 4.43 mmol) in ethanol (100 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 24 h, the mixture was filtered through celite and concentrated to give the title compound (0.86 g). MS 194.1 (M+1).

reactant | benzyl 4-(6-methyl-3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxylate | 4.43 mmol, 1.45 g | CC=1C=C(C(NN1)=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H21N3O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Palladium | 0.70 g | [Pd] | Pd
product | 6-Methyl-4-piperidin-4-ylpyridazin-3(2H)-one | 0.86 g | CC=1C=C(C(NN1)=O)C1CCNCC1 | C10H15N3O
